US09062092B2
Compound 49c. (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester
A solution of 2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carboxylic acid (135 mg, 0.3 mmol), N,N-diisopropylethylamine (96 mg, 0.133 mL, 0.75 mmol), 4-dimethylaminopyridine (80 mg, 0.66 mmol) and 2-methyl-6-nitrobenzoic anhydride (193 mg, 0.56 mmol) in dichloromethane (5 mL) was stirred at 0° C. under nitrogen. A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (142 mg, 0.33 mmol) in dichloromethane (2 mL) was added and the reaction mixture was stirred at room temperature for 6 h. The reaction mixture was diluted with dichloromethane and the solution was washed with ice-cold saturated sodium hydrogen carbonate solution, water, ice-cold hydrochloric acid (1 M), water and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 3:1 to 1:3 to afford the title compound (44 mg, 17%) as a white solid and as a 1:1 mixture of two diastereoisomers. LCMS (m/z) 840.2, 842.0 [M+H], Tr=3.75 min.

reactant | 2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carboxylic acid | 0.3 mmol, 135 mg | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCCC1)C(=O)O | C24H30N2O5
reactant | N,N-diisopropylethylamine | 0.75 mmol, 0.133 mL, 96 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-6-nitrobenzoic anhydride | 0.56 mmol, 193 mg | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.33 mmol, 142 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)(Cl)Cl | C15H24Cl3N3O5
catalyst | 4-dimethylaminopyridine | 0.66 mmol, 80 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester | 44 mg, 17% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC(=O)C1(OCCCC1)\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C39H52Cl3N5O9
